US04295952
A 120×120 mm asbestos paper of the 0.025" L/FX36" type manufactured by John Mansville Co. was soaked with a mixture having the following molar composition: 66% of styrene (ST), 34% of divinylbenzene (DVB) and 1% (molar with respect to the total moles of monomers) of dibenzoylperoxide. The paper was then placed in a Teflon-lined press and held at 80° C. for 1 hour at a pressure of 0.5 kg/cm2 to produce a fluid-impervious sheet with a ST/DVB polymer load of 65% by weight. One side thereof was then coated with a mixture of the following composition by moles: 85% of 4-vinylpyridine (4 VP), 15% of divinylbenzene (DVB) and 1% (molar ratio with respect to the total moles of monomers) of dibenzoylperoxide and was then held for 2.5 hours at 80° C. in a reactor to effect copolymerization to obtain a 0.03 mm-thick 4-VP/DVB polymer layer. A double-layer membrane was thus obtained which, after swelling for 10 hours in sym-dichloroethane at 70° C., was then sulfonated at -30° C. with liquid SO3 dissolved in liquid SO2 while raising the temperature to -10° C. over 20 minutes to obtain a sulfonated membrane exhibiting a different polarity on each side. Samples were taken from both sides of the membrane and the elemental analysis thereof gave the following results:

reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | dibenzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-VP DVB | C=CC1=CC=C(C=C1)O.C(=C)C1=C(C=CC=C1)C=C | InChI=1S/C10H10.C8H8O/c1-3-9-7-5-6-8-10(9)4-2;1-2-7-3-5-8(9)6-4-7/h3-8H,1-2H2;2-6,9H,1H2
